US09382188B2
step 4) ethyl 4,4,5,5,5-pentafluoro-3-(3-((methoxymethoxy)methyl)phenyl)pentanoate
Under a nitrogen atmosphere, copper (I) chloride (73.7 mg), sodium tert-butoxide (71.5 mg) and BINAP (463 mg) were stirred in toluene (12 mL) at room temperature for 10 min, and to the reaction mixture were successively added polymethylhydrosiloxane (1.67 mL), ethyl 4,4,5,5,5-pentafluoro-3-(3-((methoxymethoxy)methyl)phenyl)pent-2-enoate (1.37 g) and tert-butanol (854 μL) at room temperature. The reaction mixture was stirred at room temperature for 16 hr, ethanol (5 mL) was added at room temperature, and the mixture was filtered through celite. To the filtrate was added saturated aqueous ammonium chloride solution at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was filtered through NH silica gel to give a crude product (366 mg) of the title compound as a colorless oil. This compound was used for the next step without further purification.

reactant | sodium tert-butoxide | 71.5 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 463 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | ethyl 4,4,5,5,5-pentafluoro-3-(3-((methoxymethoxy)methyl)phenyl)pent-2-enoate | 1.37 g | FC(C(=CC(=O)OCC)C1=CC(=CC=C1)COCOC)(C(F)(F)F)F | C16H17F5O4
reactant | tert-butanol | 854 μL | C(C)(C)(C)O | C4H10O
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper (I) chloride | 73.7 mg | [Cu]Cl
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | ethyl 4,4,5,5,5-pentafluoro-3-(3-((methoxymethoxy)methyl)phenyl)pentanoate | 366 mg | FC(C(CC(=O)OCC)C1=CC(=CC=C1)COCOC)(C(F)(F)F)F | C16H19F5O4
